US06075154
Synthesis of 2,2'-bis(diphenylphosphinyl)-6,6'-bis(trifluoromethyl)-1,1'-biphenyl
In a nitrogen atmosphere, 4.16 g (8.81 mmol) of 1-(diphenylphosphinyl)-2-iodo-3-trifluoromethyl benzene was dissolved in 40 ml of dimethyl formamide, and 1.5 g of copper powder was added and stirred for 30 minutes at 100° C. After allowing to cool, dimethyl formamide was distilled away in vacuo, and the residue was refined by chromatography (SiO2 70 g, CHCl3). By recrystallizing with ethyl acetate, 0.64 g (21%) of the captioned compound in the form of a white crystal was obtained.

reactant | 1-(diphenylphosphinyl)-2-iodo-3-trifluoromethyl benzene | 8.81 mmol, 4.16 g | C1(=CC=CC=C1)P(=O)(C1=C(C(=CC=C1)C(F)(F)F)I)C1=CC=CC=C1 | C19H13F3IOP
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | copper | 1.5 g | [Cu] | Cu
product | 2,2'-bis(diphenylphosphinyl)-6,6'-bis(trifluoromethyl)-1,1'-biphenyl | C1(=CC=CC=C1)P(=O)(C1=C(C(=CC=C1)C(F)(F)F)C1=C(C=CC=C1C(F)(F)F)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C38H26F6O2P2
